US06177440B1
A solution of the 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one (434.0 mg, 1.23 mM) and 2,3-dichloro-5,6-dicyano-1,4-benzoquinone (324.0 mg, 1.42 mM) in 20 mL of toluene was stirred between 70-80° C. for 5 h. The mixture was purified directly by column chromatography on silica gel (elution with methylene chloride) to afford 137.0 mg (32%) of the 9-[(3-fluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole as a yellow foam. 1H NMR (DMSO-d6) δ 10.2 (s, 1H), 7.7 (d, 1H, J=8 Hz), 7.4 (t, 1H, J=8 Hz), 7.3 (m, 2H), 7.2 (d, 1H, J=8 Hz), 7.1 (d, 1H, J=8 Hz), 7.05-6.85 (m, 3H), 6.6 (d, 1H, J=8 Hz), 5.65 (s, 2H), and 3.85 (s, 3H). IR (CHCl3, cm−1) 3200 (br), 1687, 1597, 1452, 1442, 1285, and 1267. MS (ES) m/e 348, 350.

reactant | 9-[(3-fluorophenyl)methyl]-5-carbomethoxy-1,2-dihydrocarbazol-4(3H)-one | 1.23 mM, 434.0 mg | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(CCCC12)=O)C(=O)OC | C21H18FNO3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 1.42 mM, 324.0 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 9-[(3-fluorophenyl)methyl]-4-hydroxy-5-carbomethoxy carbazole | 137.0 mg, 32% | FC=1C=C(C=CC1)CN1C2=CC=CC(=C2C=2C(=CC=CC12)O)C(=O)OC | C21H16FNO3
